US05731452
Using as the material and reagent a hydrogen fluoride-pyridine solution (0.2 ml) and N,N-diethyl(11R,12S,13E,15S)-9-butyryloxy-11,15-bis(tert-butyldimethylsiloxy)-7-thiaprosta-8,13-dienamide (169 mg), the same procedure as in Example 2 was performed to obtain N,N-diethyl(11R,12S,13E,15S)-9-butyryloxy-11,15-dihydroxy-7-thiaprosta-8,13-dienamide (101 mg, 78%).

reactant | hydrogen fluoride-pyridine | 0.2 ml | N1=CC=CC=C1.F
reactant | N,N-diethyl(11R,12S,13E,15S)-9-butyryloxy-11,15-bis(tert-butyldimethylsiloxy)-7-thiaprosta-8,13-dienamide | 169 mg | C(C)N(C(CCCCCSC1=C(C[C@H]([C@@H]1\C=C\[C@H](CCCCC)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)OC(CCC)=O)=O)CC | C39H75NO5SSi2
product | N,N-diethyl(11R,12S,13E,15S)-9-butyryloxy-11,15-dihydroxy-7-thiaprosta-8,13-dienamide | 101 mg, 78% | C(C)N(C(CCCCCSC1=C(C[C@H]([C@@H]1\C=C\[C@H](CCCCC)O)O)OC(CCC)=O)=O)CC | C27H47NO5S
